US05834468
2-[N-(2-Benzyloxy-5-bromophenethyl)-N-ethylamino]-5-pyridinecarboxylic acid
tert-Butyl 2-[N-(2-benzyloxy-5-bromophenethyl)-N-ethylamino]-5-pyridinecarboxylate (800 mg) and trifluoroacetic acid (20 ml) in dichloromethane (20 ml) was heated at reflux for 30 minutes. The solvent was evaporated and the residue crystallised from a mixture of dichloromethane and diethyl ether (1:2) to give the title compound (600 mg) mpt 214° C. (decomp).

reactant | tert-Butyl 2-[N-(2-benzyloxy-5-bromophenethyl)-N-ethylamino]-5-pyridinecarboxylate | 800 mg | C(C1=CC=CC=C1)OC1=C(CCN(CC)C2=NC=C(C=C2)C(=O)OC(C)(C)C)C=C(C=C1)Br | C27H31BrN2O3
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-[N-(2-Benzyloxy-5-bromophenethyl)-N-ethylamino]-5-pyridinecarboxylic acid | 600 mg | C(C1=CC=CC=C1)OC1=C(CCN(CC)C2=NC=C(C=C2)C(=O)O)C=C(C=C1)Br | C23H23BrN2O3
